US06348474B1
(5-Bromo-2-methoxyphenyl)acetone
A mixture of 5-bromoanisaldehyde (19.4 g, 90 mmol), toluene (25 ml), nitroethane (8.1 g, 108 mmol) and butylamine (2.0 g, 27 mmol) was vigorously refluxed under heating while removing water generated by the reaction with a Dean-Stark distilling tube. During the reflux, N-butylamine (4.5 ml) and nitroethane (4 ml) were added in several portions and the reaction proceeded for 6 hr. Then, the reaction mixture was cooled and extracted with toluene and 3N hydrochloric acid. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The desiccant was filtered off and the filtrate was concentrated under reduced pressure to give a brown oil containing 3-(2-nitropropen-1-yl)-4-methoxybromobenzene. The oil was dissolved in toluene (30 ml) and an aqueous solution (30 ml) of iron(III) chloride hexahydrate (1.0 g) was added. Thereto was added iron powder (15.1 g, 270 mmol) and the mixture was heated to 75° C. While vigorously stirring the mixture, concentrated hydrochloric acid (37.5 ml, 450 mmol) was dropwise added over 2 hr. After the dropwise addition, the mixture was stirred for 1 hr at 75° C. After cooling, the insoluble matter was filtered off and the filtrate was partitioned. The aqueous layer was extracted with toluene. The organic layers were combined, washed with 3N hydrochloric acid, and dried over anhydrous sodium sulfate. The desiccant was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=4/1) to give the objective compound (6.9 g, 33%) as a colorless oil.

reactant | 5-bromoanisaldehyde | 90 mmol, 19.4 g | BrC=1C(=CC=C(C=O)C1)OC | C8H7BrO2
reactant | nitroethane | 108 mmol, 8.1 g | [N+](=O)([O-])CC | C2H5NO2
reactant | butylamine | 27 mmol, 2.0 g | C(CCC)N | C4H11N
reactant | 3-(2-nitropropen-1-yl)-4-methoxybromobenzene | [N+](=O)([O-])C(=CC=1C=C(C=CC1OC)Br)C | C10H10BrNO3
reactant | hydrochloric acid | 450 mmol, 37.5 ml | Cl | ClH
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | iron(III) chloride hexahydrate | 30 ml, 1.0 g | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
catalyst | iron | 270 mmol, 15.1 g | [Fe] | Fe
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | (5-Bromo-2-methoxyphenyl)acetone | 6.9 g, 33% | BrC=1C=CC(=C(C1)CC(C)=O)OC | C10H11BrO2
